US04389403
2.85 g (16.5 millimoles) of quinoline-2-carboxylic acid are dissolved in 200 ml of absolute tetrahydrofuran, 2.7 g (16.5 millimoles) of N,N'-carbonyl-diimidazole are added and the mixture is stirred for 45 minutes at room temperature. A solution of 3.75 g (16.5 millimoles) of 2-(2',6'-dichlorophenylamino)-2-imidazoline in 75 ml of absolute tetrahydrofuran is then added dropwise and the batch is stirred overnight. Thereafter, the reaction solution is freed from solvent on a rotary evaporator and the oily residue is introduced into 200 ml of an 0.5% strength sodium bicarbonate solution. The crystalline crude product (5.2 g) is filtered off and recrystallized from N,N-dimethylacetamide/isopropanol, and the crystals are washed with cold isopropanol. 3.3 g of 1-(quinolin-2-oyl)-2-(2',6'-dichlorophenylamino)-2-imidazoline are obtained, melting point 197°-198° C.

reactant | quinoline-2-carboxylic acid | 16.5 millimoles, 2.85 g | N1=C(C=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | 2-(2',6'-dichlorophenylamino)-2-imidazoline | 16.5 millimoles, 3.75 g | ClC1=C(C(=CC=C1)Cl)NC=1NCCN1 | C9H9Cl2N3
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | 1-(quinolin-2-oyl)-2-(2',6'-dichlorophenylamino)-2-imidazoline | 3.3 g | N1=C(C=CC2=CC=CC=C12)C(=O)N1C(=NCC1)NC1=C(C=CC=C1Cl)Cl | C19H14Cl2N4O
